US05461038
Preparation of O,O-dipropyl thiophosphate potassium salt
To 100 g (460 mmole) of di-n-propylchlorothiophosphate in 300 ml of 1-propanol was added 58.8 g (920 mmole) of 88% potassium hydroxide pellets. The reaction mixture was refluxed overnight and then cooled to room temperature. The precipitated potassium chloride was filtered off and the solvent was stripped in vacuo. The resulting solid was slurried in 20% diethyl ether/80% hexanes and filtered yielding 67 g of the title compound, a fluffy white solid, mp 205°-207° C.

reactant | di-n-propylchlorothiophosphate | 460 mmole, 100 g | C(CC)OP(=S)(OCCC)Cl | C6H14ClO2PS
reactant | potassium hydroxide | 920 mmole, 58.8 g | [OH-].[K+]
solvent | 1-propanol | 300 ml | C(CC)O | C3H8O
product | O,O-dipropyl thiophosphate potassium salt | 67 g | [K+].P(=S)(OCCC)(OCCC)[O-] | InChI=1S/C6H15O3PS.K/c1-3-5-8-10(7,11)9-6-4-2;/h3-6H2,1-2H3,(H,7,11);/q;+1/p-1
